US09301951B2
Intermediate 197c: (S)—N1-(2-(1,4-diazepan-1-yl)ethyl)-N3-(4-(diethylamino)-2-(4-((1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)-N1-methylisophthalamide
To (S)-tert-butyl 4-(2-(3-((4-(diethylamino)-2-(4-((1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)-N-methylbenzamido)ethyl)-1,4-diazepane-1-carboxylate was added 4M HCl in dioxane (3 mL). The mixture was stirred at room temperature for 2 h, concentrated to give a light yellow solid which was used without further purification.

reactant | (S)-tert-butyl 4-(2-(3-((4-(diethylamino)-2-(4-((1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)carbamoyl)-N-methylbenzamido)ethyl)-1,4-diazepane-1-carboxylate | C(C)N(C1=CC(=C(C=C1)NC(=O)C=1C=C(C(=O)N(C)CCN2CCN(CCC2)C(=O)OC(C)(C)C)C=CC1)C1=NC=CC(=C1)C(N[C@H]1CCCC2=CC=CC=C12)=O)CC | C47H59N7O5
reactant | HCl | 4M | Cl | ClH
solvent | dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | (S)—N1-(2-(1,4-diazepan-1-yl)ethyl)-N3-(4-(diethylamino)-2-(4-((1,2,3,4-tetrahydronaphthalen-1-yl)carbamoyl)pyridin-2-yl)phenyl)-N1-methylisophthalamide | N1(CCNCCC1)CCN(C(C1=CC(C(=O)NC2=C(C=C(C=C2)N(CC)CC)C2=NC=CC(=C2)C(N[C@H]2CCCC3=CC=CC=C23)=O)=CC=C1)=O)C | C42H51N7O3
